US07842713B2
A suspension of 4-fluorobenzenethiol (80 g, 0.625 mol), cyclobutylbromide (45 g, 0.33 mol) and Cs2CO3 (108 g, 0.33 mol) in DMSO (1.5 L) was heated to 70° C. and stirred overnight. TLC (petroleum ether) indicated the reaction was complete. After cooled to room temperature, the reaction mixture was filtered to remove inorganic salts, and the filtrate was partitioned between diethyl ether (1.5 L) and water (1 L). The aqueous layer was extracted with diethyl ether (700 mL×3). The combined organic phases were washed sequentially with water (1 L×2), then brine (1 L), dried over MgSO4 and concentrated in vacuum to give cyclobutyl(4-fluorophenyl)sulfane (64.8 g, 84.8%) as a pale yellow oil. Cyclobutyl(4-fluorophenyl)sulfane (61.8 g, 0.34 mol) was dissolved in CH2Cl2 (2 L) and cooled to −15° C., m-CPBA (150.4 g, 0.742 mol) was added portion wise while keeping the temperature between −15° C. and −10° C. After the addition, the reaction mixture was allowed to warm to room temperature and stirred for 3-4 h. TLC (petroleum ether: ethyl acetate=4:1) indicated the reaction was complete. The reaction mixture was partitioned between CH2Cl2 (2 L) and water (1 L). The organic layer was washed with saturated NaHCO3 solution (1 L) and brine (1 L), dried over MgSO4, filtrated and concentrated in vacuum to give the title compound (59 g, 81.1%) as a white solid.

reactant | 4-fluorobenzenethiol | 0.625 mol, 80 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | cyclobutylbromide | 0.33 mol, 45 g | C1(CCC1)Br | C4H7Br
reactant | Cs2CO3 | 0.33 mol, 108 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 1.5 L | CS(=O)C | C2H6OS
product | cyclobutyl(4-fluorophenyl)sulfane | 64.8 g, 84.8% | C1(CCC1)SC1=CC=C(C=C1)F | C10H11FS
